US05098912
(1) 3-(1-Aminoethyl)-1-benzylpyrrolidine
30 ml of anhydrous tetrahydrofuran (THF) was added to 650 mg of 1-benzyl-4-(1-hydroxyiminoethyl)-2-pyrrolidone and 500 mg of lithium aluminum hydride and the obtained mixture was refluxed for 20 h. After the decomposition of lithium aluminum hydride, the precipitate was filtered and washed thoroughly with THF. The wash solution was added to the filtrate. The solvent was distilled off under reduced pressure to obtain 587 mg of the desired compound in the form of a light yellow oil.

reactant | 1-benzyl-4-(1-hydroxyiminoethyl)-2-pyrrolidone | 650 mg | C(C1=CC=CC=C1)N1C(CC(C1)C(C)=NO)=O | C13H16N2O2
reactant | lithium aluminum hydride | 500 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(1-Aminoethyl)-1-benzylpyrrolidine | 587 mg | NC(C)C1CN(CC1)CC1=CC=CC=C1 | C13H20N2
